US08110571B2
To a solution of 175 mg of 1-(5-hydroxy-1H-benzimidazol-2-yl)-3-(2-methoxyethyl)urea in 15 cm3 of 0.1N aqueous sodium hydroxide solution are added 189 mg of finely ground 2,6-dichlorobenzenesulfonyl chloride. The suspension is stirred for about 20 hours at a temperature in the region of 20° C., 10 cm3 of water are then added and the mixture is cooled to about 5° C. for about 15 minutes. The precipitate is filtered off by suction, washed with three times 2 cm3 of water and dried under reduced pressure (13 kPa) over phosphorus pentoxide. After flash chromatography on a column of silica [eluent: dichloromethane/methanol/acetonitrile (95/3/2 by volume)], 65 mg of 2-{[(2-methoxyethyl)carbamoyl]amino}-1H-benzimidazol-5-yl 2,6-dichlorobenzenesulfonate are obtained in the form of a cream-coloured powder, the characteristics of which are as follows:

reactant | 1-(5-hydroxy-1H-benzimidazol-2-yl)-3-(2-methoxyethyl)urea | 175 mg | OC1=CC2=C(NC(=N2)NC(=O)NCCOC)C=C1 | C11H14N4O3
reactant | 2,6-dichlorobenzenesulfonyl chloride | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | water | 10 cm3 | O | H2O
solvent | sodium hydroxide | 0.1N, 15 cm3 | [OH-].[Na+]
product | 2-{[(2-methoxyethyl)carbamoyl]amino}-1H-benzimidazol-5-yl 2,6-dichlorobenzenesulfonate | 65 mg | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)OC1=CC2=C(NC(=N2)NC(NCCOC)=O)C=C1 | C17H16Cl2N4O5S
